datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])[H])[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])[H])[H] 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])=C(C)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)/C(C)=C([H])\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O:10]C(CC)C(CC)[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[O-:10]C([H])C(C)C(O)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(O)C(C)C([H])[O:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CCCCCC)C1=CC=CC=C1>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC 21=20;20,10=10"
"CC[S:10][H].C[O+:21]=[C:20]([S]CC)[O]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([S]CC)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)CC 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[NH:10]([H])C([H])C(C)C(O)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(O)C(C)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[H][O:10]C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[O:10]([Na])C(C)C(O)C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C(O)C1[H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21][H])C>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)C.[O-:21][H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1.[O-:21]CC>>C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C1=CC=CC=C1 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)C>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)[H]>>CCC1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]C 10=20;20,21=21"
"[O-:10]C(CC)C(C)C([C:20]([H])=[O:21])[H]>>[O-:21][C:20]1([H])[O:10]C(CC)C(C)C1[H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1 10=20;20,21=21"
